US05135972
A mixture is prepared by adding 104 grams (1.1 moles) of phenol, 173 grams (1 mole of 4-nitrophthalonitrile, and 207 grams of potassium carbonate in 1667 ml of dimethylformamide. The mixture is heated to 70° C. and mechanically stirred. Samples are taken of this reaction mixture periodically and analyzed by GLC. After five hours, the reaction is complete. The 4-phenoxyphthalonitrile is isolated by quenching the crude reaction mixture in ice water. The product is further purified by washing the crude precipitate with dilute sodium carbonate and then water. Finally the 4-phenoxyphthalonitrile is vacuum dried at 60° C.

reactant | phenol | 1.1 moles, 104 grams | C1(=CC=CC=C1)O | C6H6O
reactant | 4-nitrophthalonitrile | 1 mole | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
reactant | potassium carbonate | 207 grams | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1667 ml | CN(C=O)C | C3H7NO
product | 4-phenoxyphthalonitrile | O(C1=CC=CC=C1)C=1C=C(C(C#N)=CC1)C#N | C14H8N2O
